US05378694
Step (2): Preparation of 1-Benzyl-3-Formyl-4-Hydroxy-2(1H)-Quinolinone.
Following the Procedure set forth in Preparation B, 1-benzyl-4-hydroxy-2(1H)-quinolinone was converted to 1-benzyl-3-formyl-4-hydroxy-(2(1H)-quinolinone. That the expected product was obtained was confirmed by the spectral data: MS (FAB): m/e 370 (M·+ +1); NMR (DMSO): δ5.50 (s, 2H, CH2 --Ar), 10.18 (s, 1H, CHO) ppm.

reactant | 1-benzyl-4-hydroxy-2(1H)-quinolinone | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)O)=O | C16H13NO2
reactant | 2(1H)-quinolinone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
product | 1-Benzyl-3-Formyl-4-Hydroxy-2(1H)-Quinolinone | C(C1=CC=CC=C1)N1C(C(=C(C2=CC=CC=C12)O)C=O)=O | C17H13NO3
